US07977491B2
Synthesis [1-2]: Synthesis of 2-(4-hydroxyphenylthio)pyridine
Under nitrogen atmosphere, 127 g of 4-hydroxythiophenol, 112 g of chloropyridine, and 140 g of potassium carbonate were mixed. To the mixture was added 250 mL of dimethylformamide. The resultant was stirred, heated to 75° C. and further heated at 10° C. for 5 hours. At the time when the reaction completed substantially, the resultant was poured into 1.5 L of water. The precipitated crystals were collected by filtration, washed with water, and dried (yielded amount 184 g, and yield 91.8%).

reactant | 4-hydroxythiophenol | 127 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | chloropyridine | 112 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | potassium carbonate | 140 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | water | 1.5 L | O | H2O
product | 2-(4-hydroxyphenylthio)pyridine | yield 91.8% | OC1=CC=C(C=C1)SC1=NC=CC=C1 | C11H9NOS
